US07244729B2
Step 119.2: {4-[4-(6-Methoxy-pyridin-3-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol
5.0 g (12 mMol) of 4-[4-(6-methoxy-pyridin-3-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-benzoic acid ethyl ester in 200 ml of THF is cooled to −10° C. Then 80 ml of a 1 N solution of di-isobutyl-aluminium hydride in THF are added dropwise. After stirring for 3 h at RT, 200 ml of THF and 100 ml of EtOAc are added, followed by 10 ml of a 10%-solution of NH4Cl in water. After 30 min vigorous stirring, 20 g of Na2SO4 are added, then the mixture is filtered through Celite. Concentration of the filtrate, stirring in methanol and filtration gives the title compound; MS-ES+: (M+H)+=362.

reactant | 4-[4-(6-methoxy-pyridin-3-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidin -6-yl]-benzoic acid ethyl ester | 12 mMol, 5.0 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)N1)=O | C22H21N5O3
reactant | di-isobutyl-aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Na2SO4 | 20 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | {4-[4-(6-Methoxy-pyridin-3-ylmethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol | COC1=CC=C(C=N1)CNC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO | C20H19N5O2
